US07074791B2
Step 3: Preparation of 2-(2,4-dichlorophenyl)-3-methyl-1H-pyrrol-1-amine
To a suspension of 2-[2-(2,4-dichlorophenyl)-3-methyl-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)-dione (3.71 g, 10.0 mmol) in EtOH (60.0 mL) is added hydrazine monohydrate (1.21 mL, 1.25 g, 25.0 mmol) at room temperature. The reaction mixture is heated at reflux for 2 h. After cooling down to room temperature, the mixture is filtered. The filtrate is concentrated in vacuo to dryness and the residue is subjected to column chromatography (silica gel, 1/4 EtOAc/heptane) to give 2.36 g (98%) of light yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.57 (d, J=2.1 Hz, 1H), 7.37 (dd, J=2.1, 8.2 Hz, 1H), 7.30 (d, J=8.2 Hz, 1H), 6.82 (d, J=2.8 Hz, 1H), 6.01 (d, J=2.8 Hz, 1H), 2.00 (s, 3H); 13C NMR (100 MHz, CDCl3) δ 136.5, 135.0, 134.6, 130.0, 129.9, 127.6, 127.3, 122.8, 117.0, 106.9, 12.3; IR (liq.) 2422, 2350, 2327, 2286, 2211, 1563, 1547, 1484, 1102, 1001, 868, 826, 806, 724, 708 cm-−1; MS (EI) m/z 243 (M++H), 241 (M++H); HRMS (FAB) calcd for C11H10Cl2N2+H 241.0299, found 241.0291.

reactant | 2-[2-(2,4-dichlorophenyl)-3-methyl-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)-dione | 10.0 mmol, 3.71 g | ClC1=C(C=CC(=C1)Cl)C=1N(C=CC1C)N1C(C2=CC=CC=C2C1=O)=O | C19H12Cl2N2O2
reactant | hydrazine monohydrate | 25.0 mmol, 1.21 mL, 1.25 g | O.NN
solvent | EtOH | 60.0 mL | CCO | C2H6O
product | 2-(2,4-dichlorophenyl)-3-methyl-1H-pyrrol-1-amine | ClC1=C(C=CC(=C1)Cl)C=1N(C=CC1C)N | C11H10Cl2N2
